US05852014
A stirred solution of 3-methylthiazolo[3,2-a]indole (A. Kiprianov and V. Khilya, Zh. Organ. Khim. 1966, 2, 1474) (270 mg, 0.0014 mole) in DMF (3 ml) was cooled to 5° C. under argon and treated with triflouroacetic anhydride (0.23 ml, 0.0017 mole), then allowed to warm to room temperature over 3 h. The solution was poured into water (25 ml) and the mixture extracted with ethyl acetate (2×20 ml). The combined extracts were dried (Na2SO4) and then concentrated in vacuo to afford 3-methyl-9-trifluoroacetylthiazolo[3,2-a]indole (370 mg, 90%) as a brown solid.

reactant | 3-methylthiazolo[3,2-a]indole | CC1=CSC=2N1C=1C=CC=CC1C2 | C11H9NS
reactant | triflouroacetic anhydride | 0.0017 mole, 0.23 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 25 ml | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 3-methyl-9-trifluoroacetylthiazolo[3,2-a]indole | 370 mg, 90% | CC1=CSC=2N1C=1C=CC=CC1C2C(C(F)(F)F)=O | C13H8F3NOS
